US07335306B2
2-Mercaptoethyl ether (53.8 ml; 0.434 mol) was added to a solution of sodium hydroxide (17.36 g; 0.434 mol) in ethanol (300 ml) at ambient temperature and stirred for 15 min. 2-Chloroethanol (29.1 ml; 0.434 mol) was added to the solution at ambient temperature and after addition was complete the stirred solution was heated to 80° C. for 1 hr. The reaction mixture was then cooled to ambient temperature and the solid sodium chloride separated by filtration. The filtrate was transferred to a distillation apparatus and ethanol and unreacted 2-mercaptoethyl ether removed under vacuum (the latter distilling at 62° C. and 0.4 mbar). Fractional distillation of the remaining product yielded 2-[2-(2-mercapto-ethoxy)-ethylsulfanyl]-ethanol at 128° C. and 0.3 mbar. Pure fractions were combined to afford 2-[2-(2-mercapto-ethoxy)-ethylsulfanyl]-ethanol (31 g; 0.17 mol; 39% yield) as a colourless oil.

reactant | 2-Mercaptoethyl ether | 0.434 mol, 53.8 ml | SCCOCCS | C4H10OS2
reactant | sodium hydroxide | 0.434 mol, 17.36 g | [OH-].[Na+]
reactant | 2-Chloroethanol | 0.434 mol, 29.1 ml | ClCCO | C2H5ClO
solvent | ethanol | 300 ml | C(C)O | C2H6O
product | 2-[2-(2-mercapto-ethoxy)-ethylsulfanyl]-ethanol | SCCOCCSCCO | C6H14O2S2
